US05599926
O-Allyltyrosine methyl ester (20 mg, 0.084 mmol) was added to a stirred solution of (S)-(-)-methoxy(trifluoromethyl)phenyl-acetic acid (28.0 mg, 0.120 mmol) and DCC (40 mg, 0.20 mmol) in CH2Cl2 (0.50 mL). After 3 h the reaction mixture was diluted with CH2Cl2 (10.0 mL), filtered, and washed with 0.5M aq NaOH. Drying and solvent removal afforded the crude (S)-(-)-methoxy-(trifluoromethyl)phenyl-acetamide as a waxy oil containing DCC and N,N-dicyclohexylurea: Rf 0.55 (50% ether/hexane); 1H NMR (CDCl3) δ3.05 (1H, dd, J=6.4, 14.4 Hz), 3.13 (1H, dd, J=5.4, 14.4 Hz), 3.24 (3H, s), 3.74 (3H, s), 4.52 (2H, d, J=5.2 Hz), 4.87 (1H, ddd, J=5.4, 6.0, 6.4 Hz), 5.29 (1H, d, J=10.4 Hz), 5.41 (1H, d, J=17.6 Hz), 6.06 (1H, m), 6.83 (2H, d, J=8.4 Hz), 7.05 (2H, d, J=8.4 Hz), 7.28 (1H, d, J=6.0 Hz), 7.39 (3H, m), 7.52 (2H, m); 13C NMR (CDCl3) δ28.9, 37.0, 52.5, 53.4, 53.7, 55.0, 69.0, 77.9, 115.2, 117.8, 127.8, 128.1, 128.7, 129.8, 130.4, 133.4, 158.0, 166.2, 171.9,; IR (film) 3411, 3140, 2953, 2851, 1745, 1696, 1511, 1244, 1233, 1224, 1178 cm-1 ; HRMS (M+1) calcd for C23H25F3NO5 452.1685, found 452.1685.

reactant | O-Allyltyrosine methyl ester | 0.084 mmol, 20 mg | COC([C@@H](N)CC1=CC=C(C=C1)OCC=C)=O | C13H17NO3
reactant | (S)-(-)-methoxy(trifluoromethyl)phenyl-acetic acid | 0.120 mmol, 28.0 mg | CO[C@](C(=O)O)(C1=CC=CC=C1)C(F)(F)F | C10H9F3O3
reactant | DCC | 0.20 mmol, 40 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 0.50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-(-)-methoxy-(trifluoromethyl)phenyl-acetamide | CO[C@](C(=O)N)(C1=CC=CC=C1)C(F)(F)F | C10H10F3NO2
